US07132419B2
4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
A mixture of 4-methoxy-benzo[a]phenazine-11-carboxylic acid (II.1) (129 mg) and 1,1′-carbonyldiimidazole (138 mg) was stirred in dry N,N-dimethylformamide (8 mL) at room temperature for 4 hours. To this mixture was added N,N-dimethylethylenediamine (commercially available)(0.5 mL) and the reaction mixture was stirred at room temperature for a further 30 minutes. The volatiles were then removed in vacuo. The residue was dissolved in dichloromethane, washed with water, dried (MgSO4) and the solvent removed in vacuo to provide crude product. This was purified using flash chromatography (5% methanol in dichloromethane) to yield the title compound as a bright yellow solid (120 mg).

reactant | 4-methoxy-benzo[a]phenazine-11-carboxylic acid | 129 mg | COC1=CC=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C18H12N2O3
reactant | 1,1′-carbonyldiimidazole | 138 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 120 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)C | C22H22N4O2
